US04103011
Formic acid (140 ml) was added dropwise to acetic anhydride (200 ml) cooled on an ice bath. The solution was heated at 50° C. for 15 minutes and then cooled to 5° C. To the solution, 5,8-dihydro-2-(1-piperazinyl)-5-oxopyrido[2,3-d] pyrimidine-6-carboxylic acid (70 g) was added. The mixture was heated at 80° C. for 3 hours and then cooled. The crystals precipitated were collected by filtration and washed with ethyl ether to give 5,8-dihydro-2-(4-formyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (72.5 g). m.p. above 300° C.

reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5,8-dihydro-2-(1-piperazinyl)-5-oxopyrido[2,3-d] pyrimidine-6-carboxylic acid | 70 g | N1(CCNCC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C12H13N5O3
solvent | Formic acid | 140 ml | C(=O)O | CH2O2
product | 5,8-dihydro-2-(4-formyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 72.5 g | C(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C13H13N5O4
